US09233979B2
(R)-1-(3-(3-ethylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (0.046 mmol) was taken up in TFA (1 ml) and the reaction mixture stirred at room temperature for 1 h. Triethylsilane (0.008 ml, 0.046 mmol) was added drop wise, and the reaction mixture stirred for an additional 5 minutes. The mixture was concentrated, re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered preparative HPLC to afford (R)-1-(3-(3-ethylureido)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. TFA (9.2 mg, 0.019 mmol, 41.2% yield) as a white solid. MS ESI calc'd. For C18H27N7O2 [M+H]+ 368. found 368. 1H NMR (ppm, 600 MHz, DMSO): δ 9.67 (s, 1H); 9.08 (s, 1H); 7.81 (s, 1H); 7.36 (s, 1H); 7.31-7.32 (m, 4H); 7.19-7.22 (m, 1H); 4.81-4.86 (m, 1H); 3.16-3.20 (m, 2H); 1.39 (d, J=7.0 Hz, 3H); 1.07 (t, J=7.2 Hz, 3H).

reactant | (R)-1-(3-(3-ethylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.046 mmol | C(C)NC(NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H35N7O2
reactant | Triethylsilane | 0.046 mmol, 0.008 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(3-(3-ethylureido)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)NC(NC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)=O | C18H21N7O2
